US07273877B2
Ethyl 1-ethyl-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate was dissolved in EtOH and treated with 1 M NaOH, as for example 1, step C, to hydrolyse the ester to give 1-ethyl-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid as a white solid (100%), used directly in the next step. 1H NMR [(CD3)2SO, 400 MHz] δ 13.13 (v br s, 1H), 9.66 (br s, 1H), 8.49 (s, 1H), 7.75 (dd, J=10.1, 1.9 Hz, 1H), 7.59 (ddd, J=8.4, 2.0, 0.9 Hz, 1H), 7.31 (t, J=8.5 Hz, 1H), 5.49 (s, 1H), 3.91 (q, J=7.1 Hz, 2H), 1.19 (t, J=7.1 Hz, 3H). HRMS (EI+) calcd C14H12FIN2O3 (M+) 401.9877, found 401.9872.

reactant | Ethyl 1-ethyl-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | C(C)N1C=C(C(=CC1=O)NC1=C(C=C(C=C1)I)F)C(=O)OCC | C16H16FIN2O3
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 1-ethyl-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | 100% | C(C)N1C=C(C(=CC1=O)NC1=C(C=C(C=C1)I)F)C(=O)O | C14H12FIN2O3
